US07528143B2
4-(4-Methyl-1H-imidazol-1-yl)benzenamine (Intermediate 62)
To a solution of 1-fluoro-4-nitrobenzene (1.7 g, 12 mmol) in DMF (100 mL) was added 4-methyl-1H-imidazole (0.82 g, 10 mmol) and K2CO3 (11 g, 80 mmol). The mixture was heated at reflux under the argon atmosphere for 20 h. The mixture was filtered and the filtrate concentrated in vacuo. The residue was dissolved in EtOAc (100 mL) and washed with brine (100 mL×2). The organic layer was dried and concentrated. The solid was dissolved in MeOH and bubbled with Ar for 2 min. before adding 10% Pd—C. The hydrogenation was finished in 4 h. The catalyst was removed by filtration and solvent was removed in vacuo to afford title compound (1.5 g, 87%) as brown solid.

reactant | 1-fluoro-4-nitrobenzene | 12 mmol, 1.7 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-methyl-1H-imidazole | 10 mmol, 0.82 g | CC=1N=CNC1 | C4H6N2
reactant | K2CO3 | 80 mmol, 11 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(4-Methyl-1H-imidazol-1-yl)benzenamine | 1.5 g, 87% | CC=1N=CN(C1)C1=CC=C(C=C1)N | C10H11N3
